US06673818B2
To a solution of lithium diisopropylamide (82 mmol) in anhydrous THF (200 mL), cooled to −45° C., was added a solution of 2-[3,5-difluoro-4-(methylthio)-phenyl]-1-phenylethanone oxime (5.7 g, 19 mmol) in anhydrous THF (15 mL), controlling the reaction temperature between −40 and −50° C. The mixture was allowed to warm to −25±5° C., held there for 1 hour, and cooled to −55° C. Excess ethyl acetate (20 g, 220 mmol) was gradually added to the mixture, and the mixture allowed to warm to 10° C. Dilute ammonium chloride solution was added, and the mixture extracted with dichloromethane (1×500 mL, 2×100 mL). The combined extracts were washed with dilute ammonium chloride, dried using magnesium sulfate, and concentrated. The residue was dissolved in dichloromethane (100 mL). The P-toluenesulfonic acid (1.0 g, 6.4 mmol) was added, and the mixture heated and held at reflux for 1 hour. The cool mixture was washed with dilute sodium bicarbonate, and the aqueous wash extracted with dichloromethane. The combined organic phases were dried using magnesium sulfate, and concentrated. The product was isolated by silica gel chromatography using 5% ethyl acetate in hexanes to give 4-[3,5-difluoro-4-(methylthio)phenyl]-5-methyl-3-phenylisoxazole as a yellow solid (2.9 g, 47%). 1H NMR (CDCl3/400 MHz) 7.33-7.42 (m, 5H), 6.68-6.73 (m, 2H), 2.48 (s, 3H) 2.47 (s, 3H). HRMS m/z 318.0769 (M+H+, calcd 318.0764). Anal. Calcd for C17H13F2NOS: C, 64.34; H, 4.13; N, 4.41; Found: C, 64.22; H, 4.16, N 4.28.

reactant | lithium diisopropylamide | 82 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-[3,5-difluoro-4-(methylthio)-phenyl]-1-phenylethanone oxime | 19 mmol, 5.7 g | FC=1C=C(C=C(C1SC)F)CC(=NO)C1=CC=CC=C1 | C15H13F2NOS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | P-toluenesulfonic acid | 6.4 mmol, 1.0 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 220 mmol, 20 g | C(C)(=O)OCC | C4H8O2
product | 4-[3,5-difluoro-4-(methylthio)phenyl]-5-methyl-3-phenylisoxazole | 2.9 g, 47% | FC=1C=C(C=C(C1SC)F)C=1C(=NOC1C)C1=CC=CC=C1 | C17H13F2NOS
